US05039331
Preparation of 4-chloro-2-fluoro-5-mercaptophenylisothiocyanate
2.00 g of 4-chloro-2-fluoro-5-mercaptoaniline was dissolved in chloroform, and 1.12 ml of thiophosgene was dropwise added at 0° C. After the dropwise addition, the temperature was raised to room temperature and then, the mixture was refluxed. After refluxing for six hours, chloroform was distilled off to obtain 2.47 g of the above-identified compound as brown oil.

reactant | 4-chloro-2-fluoro-5-mercaptoaniline | 2.00 g | ClC1=CC(=C(N)C=C1S)F | C6H5ClFNS
reactant | thiophosgene | 1.12 ml | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-2-fluoro-5-mercaptophenylisothiocyanate | 2.47 g | ClC1=CC(=C(C=C1S)N=C=S)F | C7H3ClFNS2
